US07332508B2
1-(1-Ethylpropyl)-4-{3-[5-(4-trifluoromethylphenyl)[1,2,4]oxadiazol-3-yl]propyl}piperidine, hydrochloride
The title compound was prepared by a similar procedure to that described in Example 3, starting from 4-(1-(1-ethyl-propyl)piperidin-4-yl)-N-hydroxybutyramidine and 4-trifluoromethylbenzoyl chloride.

reactant | 4-(1-(1-ethyl-propyl)piperidin-4-yl)-N-hydroxybutyramidine | C(C)C(CC)N1CCC(CC1)CCCC(=N)NO | C14H29N3O
reactant | 4-trifluoromethylbenzoyl chloride | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
product | 1-(1-Ethylpropyl)-4-{3-[5-(4-trifluoromethylphenyl)[1,2,4]oxadiazol-3-yl]propyl}piperidine, hydrochloride | Cl.C(C)C(CC)N1CCC(CC1)CCCC1=NOC(=N1)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C22H30F3N3O.ClH/c1-3-19(4-2)28-14-12-16(13-15-28)6-5-7-20-26-21(29-27-20)17-8-10-18(11-9-17)22(23,24)25;/h8-11,16,19H,3-7,12-15H2,1-2H3;1H
